US05366972
b) N-(2-Bromo-6-methoxy-3-pyridinyl)-2-chloro-3-pyridinecarboxamide
To a solution of 3-amino-2-bromo-6-methoxypyridine (2.7 g) in methylene chloride (20 ml) and pyridine (1 ml) was added 2-chloronicotinoyl chloride (2.2 g), and the resulting mixture was stirred 20 min. The mixture was then diluted with methylene chloride (100 ml), washed with water (100 ml), dried (anhydrous magnesium sulfate), and concentrated. The semisolid residue was saturated with hexane, filtered, and dried to give 4.1 g of product suitable for use in the next reaction.

reactant | 3-amino-2-bromo-6-methoxypyridine | 2.7 g | NC=1C(=NC(=CC1)OC)Br | C6H7BrN2O
reactant | 2-chloronicotinoyl chloride | 2.2 g | ClC1=C(C(=O)Cl)C=CC=N1 | C6H3Cl2NO
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
solvent | pyridine | 1 ml | N1=CC=CC=C1 | C5H5N
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | N-(2-Bromo-6-methoxy-3-pyridinyl)-2-chloro-3-pyridinecarboxamide | 4.1 g | BrC1=NC(=CC=C1NC(=O)C=1C(=NC=CC1)Cl)OC | C12H9BrClN3O2
